US06713490B2
The mixture of 5-Fluoro-6-[[4-hydroxy-4-(3-methoxyphenyl)-1-piperidinyl]acetyl]-3,4-dihydroquinolin-2(1H)-one (630 mg, 1.5 mmol) and sodium borohydride (57 mg, 1.5 mmol) in ethanol (17 ml) was stirred at room temperature overnight. To the mixture was added water and extracted with dichloromethane. The extract was dried over sodium sulfate and concentrated in vacuo. The residue was purified by column chromatography (dichloromethane/methanol=10/1) to afford 5-Fluoro-6-[1-hydroxy-2-[4-hydroxy-4-(3-methoxyphenyl)-1-piperidinyl]ethyl]-3,4-dihydroquinolin-2(1H)-one as a yellow solid (220 mg).

reactant | 5-Fluoro-6-[[4-hydroxy-4-(3-methoxyphenyl)-1-piperidinyl]acetyl]-3,4-dihydroquinolin-2(1H)-one | 1.5 mmol, 630 mg | FC1=C2CCC(NC2=CC=C1C(CN1CCC(CC1)(C1=CC(=CC=C1)OC)O)=O)=O | C23H25FN2O4
reactant | sodium borohydride | 1.5 mmol, 57 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 17 ml | C(C)O | C2H6O
product | 5-Fluoro-6-[1-hydroxy-2-[4-hydroxy-4-(3-methoxyphenyl)-1-piperidinyl]ethyl]-3,4-dihydroquinolin-2(1H)-one | 220 mg | FC1=C2CCC(NC2=CC=C1C(CN1CCC(CC1)(C1=CC(=CC=C1)OC)O)O)=O | C23H27FN2O4
